### ISSUE TITLE
`simp` produces a term that doesn't typecheck (Nat.gcdA_zero_right)

### ISSUE THREAD

**Issue by Ruben-VandeVelde** [leanprover/lean4#2330]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

May be related to #2021

### Steps to Reproduce

```
/-
Copyright (c) 2018 Guy Leroy. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Sangwoo Jo (aka Jason), Guy Leroy, Johannes Hölzl, Mario Carneiro
-/
import Lean.Elab.Tactic.Induction

notation "ℕ" => Nat
notation "ℤ" => Int

namespace Nat

/-- Helper function for the extended GCD algorithm (`Nat.xgcd`). -/
def xgcdAux : ℕ → ℤ → ℤ → ℕ → ℤ → ℤ → ℕ × ℤ × ℤ
  | 0, _, _, r', s', t' => (r', s', t')
  | succ k, s, t, r', s', t' =>
    have : r' % succ k < succ k := mod_lt _ <| (succ_pos _)
    let q := r' / succ k
    xgcdAux (r' % succ k) (s' - q * s) (t' - q * t) (succ k) s t

def xgcd (x y : ℕ) : ℤ × ℤ :=
  (xgcdAux x 1 0 y 0 1).2

def gcdA (x y : ℕ) : ℤ :=
  (xgcd x y).1

theorem xgcdAux_succ : xgcdAux (succ k) s t r' s' t' =
  xgcdAux (r' % succ k) (s' - (r' / succ k) * s) (t' - (r' / succ k) * t) (succ k) s t := rfl

-- Works
theorem gcdA_zero_right {s : ℕ} : gcdA (succ s) 0 = 1 := by
  unfold gcdA xgcd
  rw [xgcdAux_succ]
  rfl

-- Fails
theorem gcdA_zero_right' {s : ℕ} : gcdA (succ s) 0 = 1 := by
  unfold gcdA xgcd
  simp only [xgcdAux_succ]
  rfl

end Nat
```

**Expected behavior:** [What you expect to happen]

Proof is accepted

**Actual behavior:** [What actually happens]

"No goals" in the tactic state, but error

```
application type mismatch
  id
    (Eq.refl
      (xgcdAux (0 % succ s) (0 - Int.ofNat 0 / Int.ofNat (succ s) * 1) (1 - Int.ofNat 0 / Int.ofNat (succ s) * 0)
            (succ s) 1 0).snd.fst)
argument has type
  (xgcdAux (0 % succ s) (0 - Int.ofNat 0 / Int.ofNat (succ s) * 1) (1 - Int.ofNat 0 / Int.ofNat (succ s) * 0) (succ s) 1
          0).snd.fst =
    (xgcdAux (0 % succ s) (0 - Int.ofNat 0 / Int.ofNat (succ s) * 1) (1 - Int.ofNat 0 / Int.ofNat (succ s) * 0) (succ s)
          1 0).snd.fst
but function has type
  (xgcdAux (succ s) 1 0 0 0 1).snd.fst = 1 → (xgcdAux (succ s) 1 0 0 0 1).snd.fst = 1
```

**Reproduces how often:** 100%

### Versions

`leanprover/lean4:nightly-2023-07-12`

Appears to have worked before https://github.com/leanprover-community/mathlib4/pull/1499 (`leanprover/lean4:nightly-2023-01-10` → `leanprover/lean4:nightly-2023-01-12`) which would suggest it was broken in https://github.com/leanprover/lean4/commit/8cd9ce06843c9d42d6d6dc43d3e81e3b49dfc20f.

### Additional Information

Any additional information, configuration or data that might be necessary to reproduce the issue.

**Comment by semorrison** [comment]
The problem here comes even before `simp`:

```
namespace Nat

def xgcdAux : Nat → Int → Int → Nat → Int → Int → Nat × Int × Int
  | 0, _, _, r', s', t' => (r', s', t')
  | succ k, s, t, r', s', t' =>
    have : r' % succ k < succ k := mod_lt _ <| (succ_pos _)
    let q := r' / succ k
    xgcdAux (r' % succ k) (s' - q * s) (t' - q * t) (succ k) s t

theorem xgcdAux_succ : xgcdAux (succ k) s t r' s' t' =
  xgcdAux (r' % succ k) (s' - (r' / succ k) * s) (t' - (r' / succ k) * t) (succ k) s t := rfl

example (s : Nat) : (xgcdAux (succ k) 1 0 0 0 1) = 
    xgcdAux (0 % succ k) (0 - (0 / succ k) * 1) (1 - (0 / succ k) * 0) (succ k) 1 0 := 
  xgcdAux_succ
example (s : Nat) : (xgcdAux (succ k) 1 0 0 0 1) = 
    xgcdAux (0 % succ k) (0 - (0 / succ k) * 1) (1 - (0 / succ k) * 0) (succ k) 1 0 := 
  rfl -- fails, despite `xgcdAux_succ` being proved by `rfl`!
```

**Comment by nomeata** [comment]
I believe this was “fixed” by making well-founded recursion opaque, now `xgcdAux_succ` isn't `rfl` by either.
